US03950320
Preparation of 5-acetamido-3-methyl-6-{7-ethyl-4-hydroxy-3,5-dimethyl-6-oxo-7-[5-ethyl-3-methyl-5-(5-ethyl-5-hydroxy-6-methyl-2-tetrahydropyranyl)-2-tetrahydrofuryl]heptyl}salicylic acid
To a suspension of 1.21 g. (2 mmole) of 5-amino-3-methyl-6-{7-ethyl-4-hydroxy-3,5-dimethyl-6-oxo-7-[5-ethyl-3-methyl-5-(5-ethyl-5-hydroxy-6-methyl-2-tetrahydropyranyl)-2-tetrahydrofuryl]-heptyl}salicylic acid in 50 ml. glacial acetic acid was added 1 ml. acetic anhydride (~10 mmoles). On warming the mixture to 70° on a steam bath, the amine dissolved and after a further half an hour at room temperature, the solution was poured on to crushed ice. The mixture was carefully made alkaline with sodium carbonate solution and extracted twice with 400 ml. ether. After drying (NaSO4) the ethereal solution was evaporated to approximately 100 ml. The resulting microcrystalline product had m.p. 189°-190°, [α]D -17.45° (1%, MeOH).

reactant | 5-amino-3-methyl-6-{7-ethyl-4-hydroxy-3,5-dimethyl-6-oxo-7-[5-ethyl-3-methyl-5-(5-ethyl-5-hydroxy-6-methyl-2-tetrahydropyranyl)-2-tetrahydrofuryl]-heptyl}salicylic acid | 2 mmole | NC1=CC(=C(C(C(=O)O)=C1CCC(C(C(C(C(C1OC(CC1C)(C1OC(C(CC1)(O)CC)C)CC)CC)=O)C)O)C)O)C | C34H55NO8
reactant | acetic anhydride | ~10 mmoles | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-acetamido-3-methyl-6-{7-ethyl-4-hydroxy-3,5-dimethyl-6-oxo-7-[5-ethyl-3-methyl-5-(5-ethyl-5-hydroxy-6-methyl-2-tetrahydropyranyl)-2-tetrahydrofuryl]heptyl}salicylic acid | C(C)(=O)NC1=CC(=C(C(C(=O)O)=C1CCC(C(C(C(C(C1OC(CC1C)(C1OC(C(CC1)(O)CC)C)CC)CC)=O)C)O)C)O)C | C36H57NO9
